US05747516
Step A: Preparation of 1-(Bromomethyl)-2-iodobenzene
To a solution of 2-iodobenzyl alcohol (50 g) in diethyl ether (500 mL), cooled in an ice-water bath, was added dropwise phosphorus tribromide (28 mL). The reaction mixture was chilled in a refrigerator for 3.5 h, then quenched by slow addition of methanol (50 mL). The mixture was washed with water, then saturated sodium bicarbonate, then water (100 mL each). The organic phase was dried (MgSO4), filtered and concentrated under reduced pressure to a white solid, which was triturated in hexane and collected by filtration to yield 58 g (91%) of the title material of Step A as a solid, mp 55°-57° C.

reactant | 2-iodobenzyl alcohol | 50 g | IC1=C(CO)C=CC=C1 | C7H7IO
reactant | phosphorus tribromide | 28 mL | P(Br)(Br)Br | Br3P
solvent | diethyl ether | 500 mL | C(C)OCC | C4H10O
product | 1-(Bromomethyl)-2-iodobenzene | 58 g, 91% | BrCC1=C(C=CC=C1)I | C7H6BrI
